US08193199B2
Prepared according to Procedure K. To a mixture of 8-methyl-2-o-tolylquinoline-3-carbaldehyde (434 mg, 1.7 mmol) in THF (6 mL) at 0° C. was added dropwise a solution of MeMgCl (3M, 2 eq, 1.1 mL) and the reaction was stirred over night before quenched with NH4Cl saturated solution. The mixture was extracted with EtOAc (2×10 mL) and the combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: EtOAc/hexane, 1/1) to provide 1-(8-methyl-2-o-tolylquinolin-3-yl)ethanol as a white solid. 1H-NMR (CDCl3) δ 8.34 (s, 1H), 7.66 (d, J=8.2 Hz, 1H), 7.48 (d, J=6.7 Hz, 1H), 7.39 (t, J=7.8 Hz, 1H), 7.19-7.27 (m, 4H), 2.69 (s, 3H), 2.08 (s, 3H), 1.30 (m, 3H). Mass Spectrum (ESI) m/e=278 (M+1).

reactant | 8-methyl-2-o-tolylquinoline-3-carbaldehyde | 1.7 mmol, 434 mg | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C)C=O | C18H15NO
reactant | MeMgCl | 3M, 1.1 mL, 2 eq | C[Mg]Cl
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-(8-methyl-2-o-tolylquinolin-3-yl)ethanol | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C)C(C)O | C19H19NO
